US07544809B2
4-Methylpentane-2,3-dione 2-oxime (formula XVI)
100 g (948 mmol) of 2-methylpentan-3-one were dissolved in 400 ml of tert-butyl methyl ether. 50 g (274 mmol) of solution of hydrochloride in ethylene glycol dimethyl ether (20%) were added. Subsequently, a solution of 117 g (949 mmol) isoamyl nitrite in 150 ml of tert-butyl methyl ether was added dropwise within 60 minutes. The solvent was removed fully under reduced pressure. The residue was taken up in 300 ml of n-heptane and concentrated again under reduced pressure. After 200 ml of n-heptane had been added, extraction was effected with 522 ml of sodium hydroxide solution (2 molar). After phase separation, the aqueous phase was washed with n-heptane. The aqueous phase was acidified by adding conc. hydrochloric acid. The product was isolated by filtration with suction, washed with water and dried at elevated temperature under reduced pressure.

reactant | 2-methylpentan-3-one | 948 mmol, 100 g | CC(C)C(CC)=O | C6H12O
reactant | hydrochloride | Cl | ClH
reactant | isoamyl nitrite | 949 mmol, 117 g | N(=O)OCCC(C)C | C5H11NO2
solvent | tert-butyl methyl ether | 400 ml | COC(C)(C)C | C5H12O
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
solvent | tert-butyl methyl ether | 150 ml | COC(C)(C)C | C5H12O
product | 4-Methylpentane-2,3-dione 2-oxime | CC(C(C(C)=NO)=O)C | C6H11NO2
